US04029787
4-(4-Methylpiperazine-1-yl)-3-n-propylsulfamoylbenzoic acid-hydrochloride
37.6 Grams of 3-allylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-hydrochloride (0.1 mole), prepared according to Example 32, were dissolved in 0.3 l of tetrahydrofurane and were hydrogentated in the presence of palladium black at 30° C. and at 40 atmospheres until no more hydrogen was absorbed. Subsequently the catalyst was separated, the solution was evaporated, and the residue was recrystallized from water.

reactant | 3-allylsulfamoyl-4-(4-methylpiperazine-1-yl)-benzoic acid-hydrochloride | 0.1 mole | Cl.C(C=C)NS(=O)(=O)C=1C=C(C(=O)O)C=CC1N1CCN(CC1)C
reactant | hydrogen | [H][H] | H2
solvent | tetrahydrofurane | 0.3 l | O1CCCC1 | C4H8O
catalyst | palladium black | [Pd] | Pd
product | 4-(4-Methylpiperazine-1-yl)-3-n-propylsulfamoylbenzoic acid-hydrochloride | Cl.CN1CCN(CC1)C1=C(C=C(C(=O)O)C=C1)S(NCCC)(=O)=O | InChI=1S/C15H23N3O4S.ClH/c1-3-6-16-23(21,22)14-11-12(15(19)20)4-5-13(14)18-9-7-17(2)8-10-18;/h4-5,11,16H,3,6-10H2,1-2H3,(H,19,20);1H
